*********************************************************************
*  TOSHIBA CORPORATION SEMICONDUCTOR & STORAGE PRODUCTS COMPANY
*  Date                 : 24/11/2015
*  File name            : SSM3K2615R.lib
*  Part Number          : SSM3K2615R
*  Parameter ver.       : Ver.1
*  Simulator            : PSPICE
*  Model call name      : NMOS_SSM3K2615R
*  TNOM                 : 25 degree
*********************************************************************
.SUBCKT NMOS_SSM3K2615R 1 2 3
M0 1 22 3 3 smsmosfet
+ L = 5e-06
+ W = 0.07
+ AD = 2e-09
+ AS = 2e-09
+ PD = 0.14
+ PS = 0.14
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R2 10 2 1E+009
R3 10 3 1E+009
RG 2 22 70
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5e-08
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 1.61
+ VOFF = -0.08
+ NFACTOR = 7.1
+ U0 = 9930.098
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 3.2245e-08
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 55926.9836
+ A0 = 0.0043271
+ AGS = 2.4367
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.018775
+ RDSW = 6300
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 0.043446
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.082128
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 2.7817e-08
+ CGDO = 2.664e-13
+ CGBO = 0
+ CGDL = 2.1923e-08
+ CGSL = 2.6697e-11
+ CKAPPA = 1.2503
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 5E-003
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.5
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -0.01
+ KT1 = -0.4
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 33000
+ PRT = 30000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.030919
.MODEL DDS1 D
+ TNOM = 25
+ IS = 1.9146e-09
+ RS = 0.091861
+ N = 1.4999
+ CJO = 1.0519e-10
+ VJ = 0.40861
+ M = 0.42452
+ XTI = 3
+ BV = 60
+ IBV = 0.01
.MODEL DDS2 D
+ TNOM = 25
+ IS = 1.9146e-09
+ RS = 0.091861
+ N = 1.4999
+ CJO = 4.5769e-11
+ VJ = 0.40054
+ M = 0.37859
+ XTI = 3
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS
