* RJP020N06 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2010/05/14
******************D G S
.SUBCKT RJP020N06 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 100m
D2       22 11 DDG
R2        2 22 21
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=23.143E-6
+ RS=40.000E-3
+ RD=0
+ VTO=1.1075
+ RDS=60.000E6
+ TOX=2.0000E-6
+ CGSO=90p
+ CGDO=13p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.6
+ ETA=0.0003
+ KAPPA=0
+ NFS=12G
.MODEL DDS D
+ IS=335.30E-15
+ N=1.0012
+ RS=39.102E-3
+ IKF=1.1675
+ CJO=171.13E-12
+ M=.57349
+ VJ=.86125
+ BV=60
+ TT=53n
.MODEL DDG D
+ CJO=507.86E-12
+ M=1.1795
+ VJ=.7509
+ N=10000
+ FC=-1.5
.MODEL RTH RES
+ TC1=0.0077
+ TC2=0.000012
.ENDS RJP020N06
